US07320973B2
(R)-3-Chloro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine dihydrochloride
(R)-3-Chloro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine (10.6 g, 22.9 mmol) was dissolved in 2-propanol (100 ml). 4 M hydrogen chloride/2-propanol (22.9 ml) was added to the obtained solution. The solvent was evaporated under reduced pressure, and 4 M hydrogen chloride/2-propanol (11.5 ml) was added to the residue. The solvent was evaporated under reduced pressure to obtain the title compound in the form of a light yellow solid (12.9 g, 100%).

reactant | (R)-3-Chloro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | 22.9 mmol, 10.6 g | ClC=1C=CC2=C(N(C3=C(OC2)C=CC=C3)C[C@@H]3N(CCC3)CCC3=CC=C(C=C3)N(C)C)C1 | C28H32ClN3O
reactant | hydrogen chloride 2-propanol | 4 M, 22.9 ml | Cl.CC(C)O
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | (R)-3-Chloro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine dihydrochloride | Cl.Cl.ClC=1C=CC2=C(N(C3=C(OC2)C=CC=C3)C[C@@H]3N(CCC3)CCC3=CC=C(C=C3)N(C)C)C1 | InChI=1S/C28H32ClN3O.2ClH/c1-30(2)24-13-9-21(10-14-24)15-17-31-16-5-6-25(31)19-32-26-7-3-4-8-28(26)33-20-22-11-12-23(29)18-27(22)32;;/h3-4,7-14,18,25H,5-6,15-17,19-20H2,1-2H3;2*1H/t25-;;/m1../s1
